US06797823B1
N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-methoxymethyl-N′-propylurea
N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-propylurea (100 mg) was dissolved in anhydrous tetrahydrofuran (30 ml), and sodium hydride (60 wt %, 88 mg) was added to the solution. The mixture was stirred at room temperature for 15 min. Next, chloromethyl methyl ether (67 μl) was added to the reaction solution, and the mixture was stirred at room temperature for additional 30 min. The solvent was removed by distillation under the reduced pressure, and water was added to the residue. The mixture was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC by development with chloroform/methanol to give 18 mg (yield 18%) of the title compound.

reactant | N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-propylurea | 100 mg | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)NC(=O)NCCC | C20H21ClN4O4
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 67 μl | COCCl | C2H5ClO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N-methoxymethyl-N′-propylurea | 18 mg, yield 18% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)N(C(=O)NCCC)COC | C22H25ClN4O5
